US08445684B2
3-[1-[5-[(2(S)-Pyrrolidinyl)methoxy]-3-pyridyl]-3(S)-pyrrolidinyl]-1-propanol
In a 100 mL round-bottom flask with reflux condenser, 10% palladium on carbon (100 mg) was added to a solution of 3-[3(R)-[3-(benzyloxy)propyl]-1-pyrrolidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine (500 mg, 1.01 mmol) in a mixed solvent of methanol/CHCl3 (40/5 mL). The reaction mixture was deoxygenated under vacuum, then H2 was admitted from a balloon placed above the condenser. The process was repeated three times, and the reaction mixture was stirred for 16 h at 70° C. in an oil bath. After cooling, the mixture was filtered through celite, and the filtrate was evaporated under reduced pressure. The crude product (340 mg) was purified by preparative HPLC (column: SunFire Prep C18, 100×19 mm, 5 μm particle size; UV detection at 220 nm; flow 20 mL/min; mobile phase: A, water with 0.05% CF3COOH; B, CH3OH; 15 to 100% B in A within 7 min). The eluate was partially evaporated under reduced pressure (bath 30° C.) to remove CH3OH. The residue was basified with saturated aqueous NaHCO3 solution and extracted with EtOAc. The combined organic layers were washed with brine and dried. After concentration in vacuo, the free base (250 mg, 81%) was obtained as a light-yellow oil. 1H NMR (CD3OD, 300 MHz) δ 7.54 (s, 1H), 7.50 (s, 1H), 6.53 (s, 1H), 4.10-4.04 (m, 1H), 3.99-3.97 (m, 1H), 3.61 (t, 2H, J=6.0 Hz), 3.53-3.50 (m, 2H), 3.35-3.30 (m, 1H), 3.00-2.94 (m, 3H), 2.38-2.18 (m, 2H), 2.09-1.95 (m, 2H), 1.91-1.81 (m, 2H), 1.71-1.51 (m, 6H). LC-MS (ESI) m/z 306 (M+H+).

reactant | 3-[3(R)-[3-(benzyloxy)propyl]-1-pyrrolidinyl]-5-[[1-(tert-butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]pyridine | 1.01 mmol, 500 mg | C(C1=CC=CC=C1)OCCC[C@H]1CN(CC1)C=1C=NC=C(C1)OC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C29H41N3O4
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol CHCl3 | 5 mL | CO.C(Cl)(Cl)Cl
product | 3-[1-[5-[(2(S)-Pyrrolidinyl)methoxy]-3-pyridyl]-3(S)-pyrrolidinyl]-1-propanol | 250 mg, 81% | N1[C@@H](CCC1)COC=1C=C(C=NC1)N1C[C@H](CC1)CCCO | C17H27N3O2
